US04321387
C. (S)-(-)-1-Methyl-2-cyanomethylpyrrolidine (VII)
To a solution of 7.0 g (0.041 mol) of (S)-1-methyl-2-chloromethylpyrrolidine.HCl in 35 ml of 80% aq. ethanol at 0° was added in portions a solution of 3.81 g (0.045 mol) of sodium bicarbonate in 50 ml of water. The mixture was stirred at 0° for 15 min., followed by the addition of a solution of 2.52 g (0.052 mol) of sodium cyanide in 65 ml of 80% aq. ethanol. This mixture was refluxed for 30 min. The resultant solution was cooled, evaporated to a small volume, and extracted with ether (2×25 ml). The combined ethereal layer was dried wtih magnesium sulfate and evaporated to a clear, brown oil. Bulb-to-bulb distillation [oven temp 40°-55° (0.25 torr)] yielded 2.62 g (51%) of the product, a clear, colorless, mobile oil: [α]D20 =-32.5°, c=2.57, methanol; picrate, mp 175° -178°.

reactant | picrate | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-]
reactant | methanol | CO | CH4O
product | (S)-(-)-1-Methyl-2-cyanomethylpyrrolidine | CN1[C@@H](CCC1)CC#N | C7H12N2
